US08664417B2
In the third reaction stage 4-chlorobutylferrocene was reacted with magnesium metal under Grignard type reaction conditions to form the corresponding Grignard intermediate compound which reacted with chlorodimethylsilane in-situ to give 4-(dimethylsilyl)butylferrocene

reactant | 4-chlorobutylferrocene | ClCCCC[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | magnesium | [Mg] | Mg
reactant | chlorodimethylsilane | Cl[SiH](C)C | C2H7ClSi
product | 4-(dimethylsilyl)butylferrocene | C[SiH](CCCC[C-]1C=CC=C1)C.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C11H19Si.C5H5.Fe/c1-12(2)10-6-5-9-11-7-3-4-8-11;1-2-4-5-3-1;/h3-4,7-8,12H,5-6,9-10H2,1-2H3;1-5H;/q2*-1;+2
